US04317942
The 2-ethoxyethyl-cyclohexyl-ether was prepared in correspondence with the description of Example 1 from 72 g (0.5 mol) of 2-hydroxyethyl-cyclohexyl-ether and 54 g (0.35 mol) of diethyl sulfate.

reactant | 2-hydroxyethyl-cyclohexyl-ether | 0.5 mol, 72 g | OCCOC1CCCCC1 | C8H16O2
reactant | diethyl sulfate | 0.35 mol, 54 g | S(=O)(=O)(OCC)OCC | C4H10O4S
product | 2-ethoxyethyl-cyclohexyl-ether | C(C)OCCOC1CCCCC1 | C10H20O2
